US08877782B2
N-(5-Hydroxy-pentyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 220, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (180 mg, 0.55 mmol) was converted, using 5-amino-1-pentanol instead of 3-amino-1-propanol, to the title compound (31 mg, 14%) which was obtained as a white solid. MS: m/e=396.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.55 mmol, 180 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
reactant | 5-amino-1-pentanol | NCCCCCO | C5H13NO
product | N-(5-Hydroxy-pentyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 31 mg, 14% | OCCCCCNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C22H25N3O4
